* source TEST
V_V2         N001590 0 5Vdc
V_V3         0 N001771 5Vdc
X_U1         N00705 N00068 N001590 N001771 N00068 LM358 
V_V4         N00705 0 1Vdc
