* source LEDCONTROLLER1
Q_Qin1         N00745 N00745 0 Q2N2222
Q_Qout1         N01158 N00745 0 Q2N2222
Q_Qout2         N01301 N01154 N01158 Q2N2222
Q_Qin2         N01154 N01154 N00745 Q2N2222
I_I1         0 N01154 DC 0Adc  
V_V1         N01301 0 0Vdc
