* source DETECTOR
V_V1         0 N00153 5Vdc
V_V2         N00157 0 5Vdc
C_C1         N00198 N00210  100p  TC=0,0 
R_R1         N00198 N00210  5G TC=0,0 
I_I1         N00198 N00345 DC 10pAdc  
C_C2         N00153 0  100p  TC=0,0 
C_C3         0 N00157  100p  TC=0,0 
X_U2         N00210 N00882 N00882 N00705 N00820 LM358 
C_C4         N00705 0  100p  TC=0,0 
V_V3         0 N00705 5Vdc
C_C5         0 N00820  100p  TC=0,0 
V_V4         N00820 0 5Vdc
