* source TEST AD549
V_V1         N00683 0 5Vdc
V_V2         0 N00200 5Vdc
I_I1         N00183 N00176 DC 10pAdc  
C_C1         N00183 N00395  100p  TC=0,0 
R_R1         N00183 N00395  10G TC=0,0 
X_U2         N00395 N01083 N01152 N01227 N01083 LM358 
V_V3         N01152 0 5Vdc
V_V4         0 N01227 5Vdc
X_U3         N00183 N00176 N00683 N00200 N00395 OPA124
