* source TEST OPA124
X_U3         0 N01887 N01899 N01891 N01895 OPA124
V_V3         N02033 0 5Vdc
I_I1         N018750 N01887 DC 100pAdc  
V_V1         N01899 0 15Vdc
V_V4         0 N02061 5Vdc
X_U2         N01895 N01993 N02033 N02061 N01993 LM358 
V_V2         0 N01891 15Vdc
C_C1         N01887 N01895  10p  TC=0,0 
R_R1         N01887 N01895  1G TC=0,0 
X_D1         0 N018750 D1N4500 
